US08304419B2
Step F: 2-[(3-bromo-5-chlorophenyl)oxy]-4-(bromomethyl)-1-chloro-3-fluorobenzene
N-bromosuccinimide (1.95 g, 10.94 mmol) was added to a solution of 2-[(3-bromo-5-chlorophenyl)oxy]-1-chloro-3-fluoro-4-methylbenzene (3.20 g, 9.12 mmol) in CCl4 (300 mL) at RT. The solution was heated to 90° C. for 5 min under N2 and AIBN (0.070 g, 0.46 mmol) was added. After 4 h, more AIBN (0.070 g, 0.46 mmol) was added and the solution was heated at 90° C. for an additional 2 h. The solution was cooled to 0° C., filtered through Celite and concentrated. The yellow oil was purified by column chromatography (0% to 30% EtOAc/hexanes gradient) to afford the title compound (3.2 g, 60%) as a clear oil 1H NMR (400 MHz, DMSO-d6): δ ppm 7.58-7.49 (m, 3H), 7.13-7.12 (m, 1H), 7.06-7.05 (m, 1H), 4.73 (s, 2H). In addition, 2.25 g (48%) of the di-brominated material, 12-[(3-bromo-5-chlorophenyl)oxy]-1-chloro-4-(dibromomethyl)-3-fluorobenzene was also obtained as a clear oil. 1H NMR (400 MHz, DMSO-d6): δ ppm 7.72-7.68 (m, 1H), 7.61 (dd, 1H), 7.51 (t, 1H), 7.47 (s, 1H), 7.19-7.18 (m, 1H), 7.11 (t, 1H).

reactant | N-bromosuccinimide | 10.94 mmol, 1.95 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2-[(3-bromo-5-chlorophenyl)oxy]-1-chloro-3-fluoro-4-methylbenzene | 9.12 mmol, 3.20 g | BrC=1C=C(C=C(C1)Cl)OC1=C(C=CC(=C1F)C)Cl | C13H8BrCl2FO
solvent | CCl4 | 300 mL | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | AIBN | 0.46 mmol, 0.070 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
catalyst | AIBN | 0.46 mmol, 0.070 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
product | 2-[(3-bromo-5-chlorophenyl)oxy]-4-(bromomethyl)-1-chloro-3-fluorobenzene | 3.2 g, 60% | BrC=1C=C(C=C(C1)Cl)OC1=C(C=CC(=C1F)CBr)Cl | C13H7Br2Cl2FO
